*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.4
* < ILD_dielectric_const = 4.1
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_0 1 2 3 4 REF
C_C1 1 REF 0.3689545039547pf
C_C2 1 2 16.916431466282pf
C_C3 1 3 0.0233767505673pf
C_C4 1 4 0.2153335716754pf
C_C5 2 REF 0.5807777988915pf
C_C6 2 3 0.1044661877906pf
C_C7 3 REF 0.4121958140554pf
C_C8 3 4 6.6406711565854pf
C_C9 4 REF 0.4184912279393pf
L_L1 3 5 1.306057193491nh
R_RL1 5 4 -1.045308454e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_1 1 2 3 4 REF
C_C1 1 REF 0.3720792767193pf
C_C2 1 2 17.017126784343pf
C_C3 1 3 0.0214111829102pf
C_C4 1 4 0.2193474522166pf
C_C5 2 REF 0.5872153613178pf
C_C6 2 3 0.1062320348148pf
C_C7 3 REF 0.4124657624166pf
C_C8 3 4 4.9118004122225pf
C_C9 4 REF 0.4176704056847pf
L_L1 3 5 1.3074671372694nh
R_RL1 5 4 3.4844164475e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_2 1 2 3 4 REF
C_C1 1 REF 0.3648660377308pf
C_C2 1 2 17.149048153078pf
C_C3 1 3 0.0194904690955pf
C_C4 1 4 0.2234056150238pf
C_C5 2 REF 0.5836148497562pf
C_C6 2 3 0.1075015685558pf
C_C7 3 REF 0.4131768644436pf
C_C8 3 4 3.7056825437206pf
C_C9 4 REF 0.4164609993391pf
L_L1 3 5 1.3086402281724nh
R_RL1 5 4 2.0974670406e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_3 1 2 3 4 REF
C_C1 1 REF 0.3507441280368pf
C_C2 1 2 17.359507793395pf
C_C3 1 3 0.0172245789305pf
C_C4 1 4 0.2284802857398pf
C_C5 2 REF 0.5744664328957pf
C_C6 2 3 0.1087684792751pf
C_C7 3 REF 0.4142397969226pf
C_C8 3 4 2.6690600164387pf
C_C9 4 REF 0.4148950123454pf
L_L1 3 5 1.309825756879nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_4 1 2 3 4 REF
C_C1 1 REF 0.3337916477665pf
C_C2 1 2 17.671188215478pf
C_C3 1 3 0.0147397445132pf
C_C4 1 4 0.2345109077927pf
C_C5 2 REF 0.5640380286772pf
C_C6 2 3 0.1101463949059pf
C_C7 3 REF 0.4154115098676pf
C_C8 3 4 1.8395489579321pf
C_C9 4 REF 0.4132925678525pf
L_L1 3 5 1.3110080208981nh
R_RL1 5 4 -1.185023939e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_5 1 2 3 4 REF
C_C1 1 REF 0.3195678893611pf
C_C2 1 2 18.052862286493pf
C_C3 1 3 0.0124463500692pf
C_C4 1 4 0.2406355024303pf
C_C5 2 REF 0.5570408120883pf
C_C6 2 3 0.1115745395583pf
C_C7 3 REF 0.4163325676402pf
C_C8 3 4 1.2917246679976pf
C_C9 4 REF 0.4120974551929pf
L_L1 3 5 1.3119602014539nh
R_RL1 5 4 -2.667627996e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_6 1 2 3 4 REF
C_C1 1 REF 0.3084757347023pf
C_C2 1 2 18.507830823772pf
C_C3 1 3 0.010259279956pf
C_C4 1 4 0.247015383619pf
C_C5 2 REF 0.5539395053118pf
C_C6 2 3 0.1131624361909pf
C_C7 3 REF 0.4169816656465pf
C_C8 3 4 0.9172763163587pf
C_C9 4 REF 0.4112877304018pf
L_L1 3 5 1.3127398118957nh
R_RL1 5 4 -3.917768663e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_7 1 2 3 4 REF
C_C1 1 REF 0.2986766697487pf
C_C2 1 2 19.142897513476pf
C_C3 1 4 0.2550591850338pf
C_C4 2 REF 0.5546194009684pf
C_C5 2 3 0.1153127909191pf
C_C6 3 REF 0.417438427236pf
C_C7 3 4 0.619228086633pf
C_C8 4 REF 0.410737744431pf
L_L1 3 5 1.3134721164404nh
R_RL1 5 4 -5.068473001e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_8 1 2 3 4 REF
C_C1 1 REF 0.2899910998565pf
C_C2 1 2 20.004545293343pf
C_C3 1 4 0.2652326023534pf
C_C4 2 REF 0.5594588665941pf
C_C5 2 3 0.1181975909368pf
C_C6 3 REF 0.4176719335319pf
C_C7 3 4 0.3903727299847pf
C_C8 4 REF 0.4104643906993pf
L_L1 3 5 1.3141597411468nh
R_RL1 5 4 -6.043632857e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_9 1 2 3 4 REF
C_C1 1 REF 0.2814896620669pf
C_C2 1 2 21.185779990566pf
C_C3 1 4 0.2785423361248pf
C_C4 2 REF 0.5687486465116pf
C_C5 2 3 0.1221483803648pf
C_C6 3 REF 0.4176808040956pf
C_C7 3 4 0.2222773920153pf
C_C8 4 REF 0.4104470880642pf
L_L1 3 5 1.3147661450599nh
R_RL1 5 4 -6.684013715e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_10 1 2 3 4 REF
C_C1 1 REF 0.2717031108226pf
C_C2 1 2 22.783525756092pf
C_C3 1 4 0.2961024972758pf
C_C4 2 REF 0.5823126430095pf
C_C5 2 3 0.1275260557207pf
C_C6 3 REF 0.417511466911pf
C_C7 3 4 0.101031354915pf
C_C8 4 REF 0.4106120515074pf
L_L1 1 5 92.522311131061nh
R_RL1 5 2 6.6037962757982
L_L2 3 6 1.31528131308nh
R_RL2 6 4 -6.911988203e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_11 1 2 3 4 REF
C_C1 1 REF 0.258566598376pf
C_C2 1 2 24.993477079331pf
C_C3 1 4 0.3201043947171pf
C_C4 2 REF 0.6007456350219pf
C_C5 2 3 0.135055199495pf
C_C6 3 REF 0.4172081089773pf
C_C7 3 4 0.0161774306334pf
C_C8 4 REF 0.4108943935757pf
L_L1 1 5 55.420371610819nh
R_RL1 5 2 4.9278051077872
L_L2 3 6 1.3156871501325nh
R_RL2 6 4 -6.62493203e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_12 1 2 3 4 REF
C_C1 1 REF 0.2397412769994pf
C_C2 1 2 28.064897621948pf
C_C3 1 4 0.3533329427176pf
C_C4 2 REF 0.6251086287737pf
C_C5 2 3 0.1456747348172pf
C_C6 3 REF 0.4168192789374pf
C_C7 4 REF 0.4112387411759pf
L_L1 1 5 31.252399804147nh
R_RL1 5 2 3.1085475337259
L_L2 3 6 1.315651949257nh
R_RL2 6 4 -5.810410767e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_13 1 2 3 4 REF
C_C1 1 REF 0.2113003412577pf
C_C2 1 2 32.519553723517pf
C_C3 1 4 0.4014895033441pf
C_C4 2 REF 0.6586023333739pf
C_C5 2 3 0.161297942119pf
C_C6 3 REF 0.4163685955273pf
C_C7 4 REF 0.4116325943557pf
L_L1 1 5 35.475032991737nh
R_RL1 5 2 -7.66665104276
L_L2 3 6 1.3153565601257nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_14 1 2 3 4 REF
C_C1 1 REF 0.1673775339022pf
C_C2 1 2 39.195012053411pf
C_C3 1 4 0.4736192968447pf
C_C4 2 REF 0.7068167945876pf
C_C5 2 3 0.1849212007344pf
C_C6 3 REF 0.4158626253801pf
C_C7 4 REF 0.4121091132953pf
R_R1 1 2 -544.9956197561
L_L1 1 5 13.361990890183nh
R_RL1 5 2 1.9359746453356
L_L2 3 6 1.3148788651893nh
R_RL2 6 4 -2.378795762e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_15 1 2 3 4 REF
C_C1 1 REF 0.0945606042548pf
C_C2 1 2 50.055225855186pf
C_C3 1 4 0.5907992449411pf
C_C4 2 REF 0.7832315213296pf
C_C5 2 3 0.2234487487525pf
C_C6 3 REF 0.4152656782149pf
C_C7 4 REF 0.4127976143524pf
R_R1 1 2 -375.7764453162
L_L1 1 5 7.2893510656268nh
R_RL1 5 2 0.6947084533472
L_L2 3 6 1.3140557593744nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_16 1 2 3 4 REF
C_C1 1 2 71.275388442501pf
C_C2 1 4 0.8193586967541pf
C_C3 2 REF 0.9304042893357pf
C_C4 2 3 0.2985973463347pf
C_C5 3 REF 0.4144116406544pf
C_C6 4 REF 0.4141363576477pf
R_R1 1 2 -254.2239613199
L_L1 1 5 3.0933273176037nh
R_RL1 5 2 0.2248168409717
L_L2 3 6 1.3124732883974nh
R_RL2 6 4 2.1388090609e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_17 1 2 3 4 REF
C_C1 1 2 123.58983581157pf
C_C2 1 4 1.3824061229761pf
C_C3 2 REF 1.2906725455033pf
C_C4 2 3 0.4835969656605pf
C_C5 3 REF 0.4127912492884pf
C_C6 4 REF 0.4176489437216pf
R_R1 1 2 -155.710201087
L_L1 1 5 1.1931793012165nh
R_RL1 5 2 0.0686975205436
L_L2 1 6 54.06596066504nh
R_RL2 6 3 0.0406713186168
L_L3 1 7 53.334922810278nh
R_RL3 7 4 0.0411447492679
L_L4 2 8 54.167148627543nh
R_RL4 8 3 0.0040286566497
L_L5 2 9 53.439257216125nh
R_RL5 9 4 0.0039432938522
L_L6 3 10 1.3086804029901nh
R_RL6 10 4 4.2948055441e-5
Kn_K1 L_L1 L_L2 0.0679789387917
Kn_K2 L_L1 L_L3 0.0682460206054
Kn_K3 L_L1 L_L4 -0.080502002204
Kn_K4 L_L1 L_L5 -0.081245421647
Kn_K5 L_L2 L_L3 0.9878378776815
Kn_K6 L_L2 L_L4 0.9889762704801
Kn_K7 L_L2 L_L5 0.9767153443667
Kn_K8 L_L2 L_L6 -0.121244326691
Kn_K9 L_L3 L_L4 0.9767858737198
Kn_K10 L_L3 L_L5 0.9888256796228
Kn_K11 L_L3 L_L6 0.0345705703411
Kn_K12 L_L4 L_L5 0.9878608677601
Kn_K13 L_L4 L_L6 -0.120944172203
Kn_K14 L_L5 L_L6 0.0347249296327
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_18 1 2 3 4 REF
C_C1 1 2 344.28934798323pf
C_C2 1 4 3.7586434290596pf
C_C3 2 REF 2.8060065137703pf
C_C4 2 3 1.2642524135229pf
C_C5 3 REF 0.4070475593419pf
C_C6 4 REF 0.4334819504701pf
R_R1 1 2 -67.39206417115
L_L1 1 5 36.507149724695nh
R_RL1 5 REF -0.019796296195
L_L2 1 6 0.2905186168232nh
R_RL2 6 2 0.0123623757569
L_L3 1 7 15.543663887703nh
R_RL3 7 3 0.0070593283944
L_L4 1 8 14.86239049938nh
R_RL4 8 4 0.0073490242951
L_L5 2 9 36.299599089045nh
R_RL5 9 REF -7.206838785e-3
L_L6 2 10 15.600847713742nh
R_RL6 10 3 8.5628065785e-4
L_L7 2 11 14.923818466574nh
R_RL7 11 4 7.6503515355e-4
L_L8 3 12 51.711185641919nh
R_RL8 12 REF -0.013403688815
L_L9 3 13 1.29284912667nh
R_RL9 13 4 5.6186999155e-5
L_L10 4 14 51.021205621464nh
R_RL10 14 REF -0.012902065186
Kn_K1 L_L1 L_L2 0.0764687144309
Kn_K2 L_L1 L_L5 0.9960137766445
Kn_K3 L_L1 L_L8 0.8363188207309
Kn_K4 L_L1 L_L10 0.8418538975907
Kn_K5 L_L2 L_L3 0.0549017035111
Kn_K6 L_L2 L_L4 0.0551246760451
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.081661370369
Kn_K9 L_L2 L_L7 -0.084512275627
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9577209649268
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9906735859899
Kn_K15 L_L3 L_L7 0.9480878221095
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.220187917767
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9484416801292
Kn_K21 L_L4 L_L7 0.9902486451552
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0697592809605
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8356511440499
Kn_K26 L_L5 L_L10 0.8411321236494
Kn_K27 L_L6 L_L7 0.9578813966198
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.219311494656
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0700986746262
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1212520605517
Kn_K35 L_L8 L_L10 0.9874376412212
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_19 1 2 3 4 REF
C_C1 1 REF 24.773724567533pf
C_C2 1 3 12.628362147933pf
C_C3 2 4 38.2527953217pf
C_C4 3 REF 0.5010192976754pf
C_C5 4 REF 0.1455342745388pf
R_R1 1 REF -645.668234949
R_R2 1 2 4.4500922399816
R_R3 1 4 412.07781607267
R_R4 2 REF 645.6239134016
R_R5 2 4 -412.2305346493
L_L1 1 5 2.45134605747nh
R_RL1 5 REF -9.836608894e-5
L_L2 1 6 0.1064083251041nh
R_RL2 6 2 -0.037482462555
L_L3 1 7 1.7985360581797nh
R_RL3 7 3 -0.014532730239
L_L4 1 8 1.2729288881496nh
R_RL4 8 4 -0.024090361999
L_L5 2 9 2.5299292384372nh
R_RL5 9 REF -0.039667171213
L_L6 2 10 1.7804020644134nh
R_RL6 10 3 -5.30549863e-3
L_L7 2 11 1.2283468024343nh
R_RL7 11 4 -1.469634777e-3
L_L8 3 12 4.2408477131149nh
R_RL8 12 REF -0.015938819754
L_L9 3 13 1.0833840526791nh
R_RL9 13 4 -1.160947666e-3
L_L10 4 14 3.7217809847718nh
R_RL10 14 REF -0.025861530762
Kn_K1 L_L1 L_L2 0.0272406402514
Kn_K2 L_L1 L_L5 0.9787601379742
Kn_K3 L_L1 L_L8 0.7588832065533
Kn_K4 L_L1 L_L10 0.8111588817312
Kn_K5 L_L2 L_L3 0.1423441337089
Kn_K6 L_L2 L_L4 0.2051301493103
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.101404585138
Kn_K9 L_L2 L_L7 -0.085505594716
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0389480149021
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.6569652677128
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9702806404369
Kn_K16 L_L3 L_L7 0.6268856331345
Kn_K17 L_L3 L_L8 0.8859672742887
Kn_K18 L_L3 L_L9 -0.576332201169
Kn_K19 L_L3 L_L10 0.9469971363926
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.6101539620764
Kn_K22 L_L4 L_L7 0.9576104995916
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2374855690096
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0163696359077
Kn_K27 L_L5 L_L7 0.0103511678979
Kn_K28 L_L5 L_L8 0.7617678691173
Kn_K29 L_L5 L_L10 0.8185307695428
Kn_K30 L_L6 L_L7 0.650973771661
Kn_K31 L_L6 L_L8 0.9080667902199
Kn_K32 L_L6 L_L9 -0.588781525034
Kn_K33 L_L6 L_L10 0.9757311101298
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.2302934757886
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.3737981481449
Kn_K38 L_L8 L_L10 0.8657829197184
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_20 1 2 3 4 REF
C_C1 1 2 2207.0173406295pf
C_C2 1 4 23.816882124768pf
C_C3 2 REF 15.58502133482pf
C_C4 2 3 7.8551359050964pf
C_C5 3 REF 0.3608169378136pf
C_C6 4 REF 0.5697711494495pf
R_R1 1 REF 886.98417021162
R_R2 1 2 -6.111776067976
R_R3 1 4 -566.6240130725
R_R4 2 REF -887.4772623967
R_R5 2 4 566.83579445599
L_L1 1 5 3.2774237977628nh
R_RL1 5 REF -3.211500465e-5
L_L2 1 6 0.0212074544506nh
R_RL2 6 2 0.0015190187777
L_L3 1 7 2.1799544080375nh
R_RL3 7 3 6.5877779159e-4
L_L4 1 8 1.5969716854503nh
R_RL4 8 4 9.5395292585e-4
L_L5 2 9 3.2540119130475nh
R_RL5 9 REF 0.0015099371134
L_L6 2 10 2.1865615134851nh
R_RL6 10 3 1.9023315475e-4
L_L7 2 11 1.6097277546678nh
R_RL7 11 4 6.7870428595e-5
L_L8 3 12 5.4290847876531nh
R_RL8 12 REF 6.4023599582e-4
L_L9 3 13 1.1332322690717nh
R_RL9 13 4 4.540732661e-5
L_L10 4 14 4.8398452226845nh
R_RL10 14 REF 9.4232799605e-4
Kn_K1 L_L1 L_L2 0.0846218596869
Kn_K2 L_L1 L_L5 0.9967594214564
Kn_K3 L_L1 L_L8 0.7736140316243
Kn_K4 L_L1 L_L10 0.8185691384906
Kn_K5 L_L2 L_L3 0.0339519923733
Kn_K6 L_L2 L_L4 0.0229617520585
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.064582830584
Kn_K9 L_L2 L_L7 -0.091909892505
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.019832077034
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.708449417309
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.995144302598
Kn_K16 L_L3 L_L7 0.7017398024319
Kn_K17 L_L3 L_L8 0.9485646466563
Kn_K18 L_L3 L_L9 -0.545957107202
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.7051168977305
Kn_K22 L_L4 L_L7 0.9933943760931
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2045133314277
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7728210058335
Kn_K27 L_L5 L_L10 0.8169516803706
Kn_K28 L_L6 L_L7 0.7097303879306
Kn_K29 L_L6 L_L8 0.9427740879261
Kn_K30 L_L6 L_L9 -0.543178495159
Kn_K31 L_L6 L_L10 0.9966096541468
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.205977736064
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.3472157004366
Kn_K36 L_L8 L_L10 0.891112791759
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_21 1 2 3 4 REF
C_C1 1 2 130.51611660856pf
C_C2 1 4 1.4508040894999pf
C_C3 2 REF 1.3435612551349pf
C_C4 2 3 0.5080474981997pf
C_C5 3 REF 0.4105396156472pf
C_C6 4 REF 0.4155193184029pf
R_R1 1 2 -181.8136327826
L_L1 1 5 88.645692258317nh
R_RL1 5 REF 0.033105891172
L_L2 1 6 0.2539567183845nh
R_RL2 6 2 0.0087094935264
L_L3 1 7 24.39484101725nh
R_RL3 7 3 0.005789151343
L_L4 1 8 23.668316475519nh
R_RL4 8 4 0.0059268547068
L_L5 2 9 87.685112151846nh
R_RL5 9 REF 0.0451167231407
L_L6 2 10 24.589845947596nh
R_RL6 10 3 -7.397884861e-5
L_L7 2 11 23.871726996143nh
R_RL7 11 4 -1.024970903e-4
L_L8 3 12 1.2983237866697nh
R_RL8 12 4 -1.678074705e-5
Kn_K1 L_L1 L_L2 0.1279888156503
Kn_K2 L_L1 L_L5 0.998574588257
Kn_K3 L_L2 L_L3 0.0118423566681
Kn_K4 L_L2 L_L4 0.0103084877558
Kn_K5 L_L2 L_L5 1.0
Kn_K6 L_L2 L_L6 -0.089830018957
Kn_K7 L_L2 L_L7 -0.092878091899
Kn_K8 L_L3 L_L4 0.973098311017
Kn_K9 L_L3 L_L5 1.0
Kn_K10 L_L3 L_L6 0.9948234725847
Kn_K11 L_L3 L_L7 0.9677221145217
Kn_K12 L_L3 L_L8 -0.179896203924
Kn_K13 L_L4 L_L5 1.0
Kn_K14 L_L4 L_L6 0.9681845451248
Kn_K15 L_L4 L_L7 0.9946671510946
Kn_K16 L_L4 L_L8 0.0515748995823
Kn_K17 L_L6 L_L7 0.9733160782315
Kn_K18 L_L6 L_L8 -0.178437646737
Kn_K19 L_L7 L_L8 0.052109621848
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_22 1 2 3 4 REF
C_C1 1 REF 0.1906340001716pf
C_C2 1 2 39.600319657937pf
C_C3 1 4 0.4729326461224pf
C_C4 2 REF 0.7267952185855pf
C_C5 2 3 0.1852659183835pf
C_C6 3 REF 0.411849986706pf
C_C7 4 REF 0.4078203803688pf
L_L1 1 5 0.6671481070115nh
R_RL1 5 2 0.0037748666695
L_L2 1 6 86.084282634702nh
R_RL2 6 3 0.0132379782672
L_L3 1 7 85.13113690433nh
R_RL3 7 4 0.0130100533411
L_L4 2 8 87.116112198679nh
R_RL4 8 3 -1.364187249e-3
L_L5 2 9 86.170798760808nh
R_RL5 9 4 -1.61502771e-3
L_L6 3 10 1.3069131226017nh
R_RL6 10 4 -3.449801721e-5
Kn_K1 L_L1 L_L2 -0.024060831081
Kn_K2 L_L1 L_L3 -0.024714792343
Kn_K3 L_L1 L_L4 -0.111428761544
Kn_K4 L_L1 L_L5 -0.112554790863
Kn_K5 L_L2 L_L3 0.9923822266465
Kn_K6 L_L2 L_L4 0.9961657920132
Kn_K7 L_L2 L_L5 0.9884945510494
Kn_K8 L_L2 L_L6 -0.106537980739
Kn_K9 L_L3 L_L4 0.9886504953504
Kn_K10 L_L3 L_L5 0.9961237719901
Kn_K11 L_L3 L_L6 0.0167695044289
Kn_K12 L_L4 L_L5 0.9924728643888
Kn_K13 L_L4 L_L6 -0.105538150225
Kn_K14 L_L5 L_L6 0.0170370590559
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_23 1 2 3 4 REF
C_C1 1 REF 0.3465923768118pf
C_C2 1 2 17.559933254476pf
C_C3 1 3 0.030832584295pf
C_C4 1 4 0.2356730712656pf
C_C5 2 REF 0.582745852141pf
C_C6 2 3 0.1058048204194pf
C_C7 3 REF 0.4112590663577pf
C_C8 4 REF 0.4049580168114pf
L_L1 1 5 1.0311938104609nh
R_RL1 5 2 2.8119289751e-4
L_L2 3 6 1.3074038396578nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_24 1 2 3 4 REF
C_C1 1 REF 0.4057946506866pf
C_C2 1 2 9.9769514261226pf
C_C3 1 3 0.0627565943974pf
C_C4 1 4 0.1525518643145pf
C_C5 2 REF 0.5381495110851pf
C_C6 2 3 0.0769873089371pf
C_C7 3 REF 0.4100486469092pf
C_C8 4 REF 0.4028346037717pf
L_L1 1 5 1.5289310156497nh
R_RL1 5 2 1.1997370255e-4
L_L2 3 6 1.305294903231nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_25 1 2 3 4 REF
C_C1 1 REF 0.4364577810634pf
C_C2 1 2 6.8059371534401pf
C_C3 1 3 0.0814108660917pf
C_C4 1 4 0.1157849648385pf
C_C5 2 REF 0.5258820519912pf
C_C6 2 3 0.0622303970893pf
C_C7 2 4 0.0378545272154pf
C_C8 3 REF 0.4083657052037pf
C_C9 4 REF 0.4005816258924pf
L_L1 1 5 1.8138557461649nh
R_RL1 5 2 5.2040143971e-4
L_L2 3 6 1.302702616672nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_26 1 2 3 4 REF
C_C1 1 REF 0.450260216476pf
C_C2 1 2 5.8019352364715pf
C_C3 1 3 0.0916697819666pf
C_C4 1 4 0.1023623852628pf
C_C5 2 REF 0.5266843779648pf
C_C6 2 3 0.0550557159284pf
C_C7 2 4 0.0545699000511pf
C_C8 3 REF 0.4069881389426pf
C_C9 4 REF 0.3988714468725pf
L_L1 1 5 1.9186092981193nh
R_RL1 5 2 8.4693090951e-5
L_L2 3 6 1.3015846682634nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param40_26

